US08703810B2
Step 1: (3-Methoxy-4-methylphenyl)methanol
To a solution of 3-methoxy-4-methyl-benzoic acid (20.0 g, 0.12 mol) in dry THF (200 mL) at 0° C., LiAlH4 (6.9 g) was slowly added. The reaction was warmed to room temperature and stirred overnight. Water (20 mL) was slowly added at 0° C., and then 15% aqueous NaOH solution (50 mL) was added. The mixture was filtered, and the filtrate was extracted with ethyl acetate (3×100 mL). The combined extracts were dried over MgSO4, filtered and evaporated to give the title compound as pale yellow oil (16.0 g). 1H NMR (CDCl3): δ 7.13 (d, 1H), 6.85-6.79 (m, 2H), 4.64 (s, 2H), 3.84 (s, 3H), 2.21 (s, 3H).

reactant | 3-methoxy-4-methyl-benzoic acid | 0.12 mol, 20.0 g | COC=1C=C(C(=O)O)C=CC1C | C9H10O3
reactant | LiAlH4 | 6.9 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | Water | 20 mL | O | H2O
reactant | NaOH | 50 mL | [OH-].[Na+]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | (3-Methoxy-4-methylphenyl)methanol | 16.0 g | COC=1C=C(C=CC1C)CO | C9H12O2
